US08871948B2
A 60% dispersion of NaH (0.5 g, 2.02 mmol) was added to a solution of 2-phenethyl-5-nitro-1H-indole (0.16 g, 0.6 mmol) in DMF (30 ml). The reaction mixture was kept under stirring for 30 minutes. Then, ethyl iodide (0.15 ml, 1.9 mmol) was added, and the mixture was left under stirring overnight at room temperature. The next morning, the mixture was poured in H2O left under stirring overnight, obtaining a precipitate which was filtered to give 2-phenethyl-1-ethyl-5-nitro-1H-indole.

reactant | NaH | 2.02 mmol, 0.5 g | [H-].[Na+]
reactant | 2-phenethyl-5-nitro-1H-indole | 0.6 mmol, 0.16 g | C(CC1=CC=CC=C1)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C16H14N2O2
reactant | ethyl iodide | 1.9 mmol, 0.15 ml | C(C)I | C2H5I
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 2-phenethyl-1-ethyl-5-nitro-1H-indole | C(CC1=CC=CC=C1)C=1N(C2=CC=C(C=C2C1)[N+](=O)[O-])CC | C18H18N2O2
